US05250669
(1) Synthesis of 4-phenylbutanol
To a suspension of lithium aluminum hydride (67.2 g) in dry tetrahydrofuran (2.5 l), a solution of 4-phenylbutyric acid (225 g, 1.37 mmoles) in dry tetrahydrofuran was added dropwise at 15°-25° C. under nitrogen. The resultant mixture was stirred for 1 h at room temperature, then poured into ice-cold H2O (3 l) and sulfuric acid (200 g) and extracted thrice with ethyl acetate. The organic extract was dried over anhydrous N2SO4, evaporated, and then the residue was distilled under reduced pressure to give the title compound as a colorless oil; yield: 191 g; bp 113°-115° C./0.5 mmHg (Lit. bp 92°-93° C./0.3 mmHg; B. H. Baker, W. B. Martin, J. Org. Chem., 25, 1496 (1960)).

reactant | lithium aluminum hydride | 67.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-phenylbutyric acid | 1.37 mmoles, 225 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | sulfuric acid | 200 g | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 2.5 l | O1CCCC1 | C4H8O
product | 4-phenylbutanol | C1(=CC=CC=C1)CCCCO | C10H14O
